*
**********************************************************
*
* BCV61
*
* NXP Semiconductors
*
* General purpose NPN transistor
* IC   = 1 A
* VCEO = 30 V 
* hFE  = 110 - 220 @ 5V/2mA
* 
*
*
*
* Package pinning does not match Spice model pinning.
* Package: SOT 143
* 
* Package Pin 1: Collector TR2; Base TR1 and TR2
* Package Pin 2: Collector TR1
* Package Pin 3: Emitter   TR1
* Package Pin 4: Emitter   TR2
* 
*
* Simulator: Spice 2       
*
**********************************************************
*#
.SUBCKT BCV61 1 2 3 4
*
Q1 1 2 3 MAIN
Q2 2 2 4 MAIN
*
.MODEL MAIN NPN 
+     IS = 1.822E-14 
+     NF = 0.9932 
+     ISE = 2.894E-16 
+     NE = 1.4 
+     BF = 324.4 
+     IKF = 0.109 
+     VAF = 82 
+     NR = 0.9931 
+     ISC = 9.982E-12 
+     NC = 1.763 
+     BR = 8.29 
+     IKR = 0.09 
+     VAR = 17.9 
+     RB = 10 
+     IRB = 5E-06 
+     RBM = 5 
+     RE = 0.649 
+     RC = 0.7014 
+     XTB = 0 
+     EG = 1.11 
+     XTI = 3 
+     CJE = 1.244E-11 
+     VJE = 0.7579 
+     MJE = 0.3656 
+     TF = 4.908E-10 
+     XTF = 9.51 
+     VTF = 2.927 
+     ITF = 0.3131 
+     PTF = 0 
+     CJC = 3.347E-12 
+     VJC = 0.5463 
+     MJC = 0.391 
+     XCJC = 0.6193 
+     TR = 9E-08 
+     CJS = 0 
+     VJS = 0.75 
+     MJS = 0.333 
+     FC = 0.979
.ENDS
*
