* QS5W1_TH THERMAL model
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or Resale Restricted
* Date: 2011/04/24
* Mounted on 30mm x 30mm x 0.8mm
* ceramic board 
* Tj-Junction Ta-Ambient
.SUBCKT QS5W1_TH Tj Ta
C1 Tj Ta 175u
C2  2 Ta 789u
C3  3 Ta 15.4m
C4  4 Ta 960m
R1  Tj 2 4.47
R2   2 3 35.1
R3   3 4 62.7
R4  4 Ta 52.2
.ENDS QS5W1_TH





